US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 55 μL (0.55 mmol) of 3,4-difluoro-aniline. After purification by chromatography on silica gel (dichloromethane/methanol 95/5) then trituration in diethyl ether, 24 mg (12%) of 8-(3,4-difluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3,4-difluoro-aniline | 0.55 mmol, 55 μL | FC=1C=C(N)C=CC1F | C6H5F2N
product | 8-(3,4-difluorophenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 24 mg, 12% | FC=1C=C(C=CC1F)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C17H11F2N3O3S.C3H6O2/c18-13-3-1-9(7-14(13)19)22-26(24,25)10-2-4-15-12(8-10)11-5-6-20-16(11)17(23)21-15;1-2-3(4)5/h1-8,20,22H,(H,21,23);2H2,1H3,(H,4,5)/p-1
